US05710198
A mixture of 12.01 g (50 mmol) of the above 9-oxo-9H-xanthene-2-carboxylic acid, 77.4 g (420 mmol) of n-dodecanol and 0.2 g (2 mmol) of concentrated sulfuric acid is kept at 140° C. for 6 hours. The sulfuric acid is neutralized with 0.33 g (4 mmol) of sodium acetam and the excess n-dodecanol is removed by distillation (98° C./0.1 mbar). The brown residue is taken up in isopropanol and the product which has precipitated is filtered off and dried uider a high vacuum. 16.7 g (82%) of n-dodecyl 9-oxo-9H-xanthene-2-carboxylate, melting point 79°-81° C., result as a beige powder.

reactant | 9-oxo-9H-xanthene-2-carboxylic acid | 50 mmol, 12.01 g | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)C(=O)O | C14H8O4
reactant | n-dodecanol | 420 mmol, 77.4 g | C(CCCCCCCCCCC)O | C12H26O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium | 4 mmol, 0.33 g | [Na] | Na
catalyst | sulfuric acid | 2 mmol, 0.2 g | S(O)(O)(=O)=O | H2O4S
product | n-dodecyl 9-oxo-9H-xanthene-2-carboxylate | 16.7 g, 82% | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)C(=O)OCCCCCCCCCCCC | C26H32O4
